US04085116
A mixture of 5.56 parts of 6-(1-bromoethyl)-4-oxo-4H-1-benzopyran-3-carbonitrile, 1.640 parts of anhydrous sodium acetate and 8 parts by volume of dimethylformamide is heated at 70° C under stirring for 50 minutes. After cooling, the reaction mixture is poured into 100 parts by volume of water to give precipitates, which are collected and recrystallized from ethanol and subsequently ethyl acetate. The procedure yields 2.90 parts of 6-(1-acetoxy-ethyl)-4-oxo-4H-1-benzopyran-3-carbonitrile. Melting point: 148°-149° C

reactant | 6-(1-bromoethyl)-4-oxo-4H-1-benzopyran-3-carbonitrile | BrC(C)C=1C=CC2=C(C(C(=CO2)C#N)=O)C1 | C12H8BrNO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-(1-acetoxy-ethyl)-4-oxo-4H-1-benzopyran-3-carbonitrile | C(C)(=O)OC(C)C=1C=CC2=C(C(C(=CO2)C#N)=O)C1 | C14H11NO4
